* Components
C1 1 2
R1 3 4 1k
R2 2 0
RD 3 5 1k
M1 5 4 2 2 NMOS

* Voltage Source
VDD 3 0 1.8V

* Node Definitions
* 0: Ground
* 1: Input
* 2: Node X
* 3: VDD
* 4: Gate of M1
* 5: Drain of M1 / Vout

.end